US08802853B2
Under a nitrogen atmosphere, dimethylsulfoxide (3.6 mL, 1.5 eq.) and oxalyl chloride (3.5 mL, 1.1 eq.) were sequentially added dropwise to chilled (dry ice/acetone bath) dichloromethane (100 mL). A solution of 4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol (10 g, 37 mmol, 1 eq.) in dichloromethane was added dropwise. Triethylamine (15.5 mL, 3 eq.) was added. The ice bath was removed and the reaction mixture was allowed to warm to ambient temperature. After about 2 hours analysis by TLC indicated that the reaction was complete. The reaction mixture was diluted with dichloromethane (175 mL) and water (200 mL) and made basic (pH 10) with aqueous 5% sodium carbonate. The organic layer was washed sequentially with water (2×200 mL) and brine (150 mL) and then concentrated under reduced pressure to provide 9.9 g of 4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butanal.

reactant | dimethylsulfoxide | 3.6 mL, 1.5 eq. | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 3.5 mL, 1.1 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-ol | 37 mmol, 10 g, 1 eq. | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCO | C16H19N3O
reactant | Triethylamine | 15.5 mL, 3 eq. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butanal | 9.9 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC=O | C16H17N3O
